US04172198
A mixture of ethyl 2-(4-oxo-6-hydroxymethyl-4H-pyran-3-yloxy)acetate monohydrate (10 g) in conc. ammonia was heated at 120° C. for 10 hours in a sealed vessel and the reaction mixture was concentrated. To the residue was added water and the resultant solution was adjusted to pH 1 to 2 with 10% hydrochloric acid. The resultant precipitates were washed with water and dried to give crystals (6 g) of 2-(4-oxo-6-hydroxymethyl-1,4-dihydropyridin-3-yloxy)acetic acid.

reactant | ethyl 2-(4-oxo-6-hydroxymethyl-4H-pyran-3-yloxy)acetate monohydrate | 10 g | O.O=C1C(=COC(=C1)CO)OCC(=O)OCC
reactant | ammonia | N | H3N
product | 2-(4-oxo-6-hydroxymethyl-1,4-dihydropyridin-3-yloxy)acetic acid | 6 g | O=C1C(=CNC(=C1)CO)OCC(=O)O | C8H9NO5
